Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
left back pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 ___ yo female w/ a pmh of htn, hld, dm who presents with flank 
pain. The patient endorses several days of worsening cough and 
left posterior back pain. Pain in nonpleuritic. No exertional 
component. 

In the ED, initial vitals: 101.8 102 172/81 16 100% RA  
- Exam notable for:
- Labs notable for: WBC 11.9, proBNP 58, d-dimer 459, lactate 
1.5, UA large leuks, Flu A/B negative, 
- Imaging notable for: CXR without no definite acute 
cardiopulmonary process. 
- EKG with SR @ 87 BPM, probably LAE
- Pt given:
___ 12:45 PO Acetaminophen 1000 mg 
___ 14:59 IV Azithromycin  
___ 18:08 IV CeftriaXONE (1 g ordered)

On arrival to the floor, pt reports constant ___ left mid-level 
back pain with occasional radiation to chest, improved since she 
first arrived to the ED. The pain, as well as urinary frequency 
started this AM. She denies dysuria or abdominal pain. She did 
have some nausea, chills and fever, as well as some 
lightheadedness when transferring from the stretcher to the bed. 
She denies any chest pain or dyspnea on exertion. Since 
returning from ___, she has had a cold with rhinorrhea and 
occasional cough. Her last UTI was ___ year ago. 

ROS:  
As per HPI; Otherwise remaining ROS negative. 
 

 
Past Medical History:
1.  History of overactive thyroid, seen by a doctor on ___.  In ___, she saw Dr. ___ in Endocrinology.  He
felt that she has unclear history of thyroid disease, likely
related to prior subacute thyroiditis versus TMNG versus Graves'
disease.  She felt that she was clinically euthyroid.
2.  History of hypercholesterolemia.
3.  History of elevated blood pressure.  She has never had a
history of hypertension and was started on hydrochlorothiazide 
in
___ ___ the first time. She was previously on 
lisinopril, but ran out
4.  History of elevated pressure in her eyes.  She was treated
with Travatan by Dr. ___ at One ___, but states she
was never felt she had glaucoma.  She states that she missed her
eye doctor appointment and states that "I don't like to see
doctors."
5.  Overweight.
 
Social History:
___
Family History:
  Father died, age ___ of heart disease.  Mother
died, age ___ in ___, history of pulmonary hypertension, 
question
breast cancer status post mastectomy, but unclear.  She had knee
surgery x 2.  She had high blood pressure and high blood sugar. 
She is not sure exactly how her mother died, but thinks it may
have been related to medications given to her for hypertension
that were not supposed to be given to people with lung disease. 
Brother living at age ___ with elevated pressure in his eyes, on
Travatan.  Son, ___ years old with, it sounds like, some
psychiatric issues.
 
Physical Exam:
ADMISSION EXAM:
Vitals: 98.3 PO 132 / 84 80 20 99 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG, 2+ radial pulses bilaterally
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, TTP of left paraspinal area just inferior to spine 
of scapula
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis; 
trace edema bilaterally  
Neuro: CN2-12 intact, no focal deficits 

DISCHARGE EXAM:
Vitals: 98.7
PO 144 / 78 76 20 94 RA 
General: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: CTAB no wheezes, rales, rhonchi  
CV: RRR, Nl S1, S2, No MRG, 2+ radial pulses bilaterally
Abdomen: soft, NT/ND bowel sounds present, no rebound tenderness 
or guarding, TTP of left paraspinal area just inferior to spine 
of scapula
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis; 
trace edema bilaterally  
Neuro: AAOx3, no focal deficits

 
Pertinent Results:
ADMISSION LABS:

___ 12:35PM BLOOD WBC-11.9*# RBC-4.54 Hgb-11.9 Hct-38.1 
MCV-84 MCH-26.2 MCHC-31.2* RDW-13.5 RDWSD-41.4 Plt ___
___ 12:35PM BLOOD Neuts-83.9* Lymphs-9.5* Monos-4.2* 
Eos-1.5 Baso-0.3 Im ___ AbsNeut-9.94* AbsLymp-1.13* 
AbsMono-0.50 AbsEos-0.18 AbsBaso-0.03
___ 12:35PM BLOOD Glucose-139* UreaN-15 Creat-1.1 Na-134 
K-5.4* Cl-99 HCO3-18* AnGap-22*
___ 12:35PM BLOOD proBNP-58
___ 07:00AM BLOOD Calcium-9.2 Phos-2.9 Mg-2.1
___ 01:30PM BLOOD D-Dimer-459
___ 12:48PM BLOOD Lactate-1.5 K-3.9
___ 12:20PM URINE Color-Straw Appear-Hazy Sp ___
___ 12:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 12:20PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG
___ 12:20PM URINE RBC-3* WBC-41* Bacteri-FEW Yeast-NONE 
Epi-5 TransE-<1

MICROBIOLOGY: 
 
___ BLOOD CULTURE: NO GROWTH TO DATE 
___ 12:20 pm URINE      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

DISCHARGE LABS:
___ 07:00AM BLOOD WBC-8.9 RBC-4.57 Hgb-11.9 Hct-38.4 MCV-84 
MCH-26.0 MCHC-31.0* RDW-13.7 RDWSD-41.9 Plt ___
___ 07:00AM BLOOD Glucose-121* UreaN-11 Creat-1.0 Na-138 
K-4.1 Cl-100 HCO3-22 AnGap-20

STUDIES: 
CXR: No definite acute cardiopulmonary process.
 
Brief Hospital Course:
___ with history of UTI, HTN, HLD, obesity who presents with 
left-sided back pain, fever, and urinary frequency concerning 
for pyelonephritis. 

#Left back pain: Most likely CVA tenderness in setting of 
pyelonephritis. Location of her pain was somewhat atypical, as 
well as that it radiates to her chest. It is non-exertional, 
making angina less likely, however, she does have risk factors 
for CAD, including HTN, HLD, family history. Aortic dissection 
and PE also possible, but less likely especially given D-dimer 
<500 and BNP <50. EKG without signs of ischemia. Pain improved 
with antibiotics. 

#Pyelonephritis: She presented with left back pain, positive UA, 
fever, nausea and urinary frequency. She improved greatly with 2 
doses of CTX and was discharged on day 2 of admission on cipro 
for total course of 7 days. Blood cultures negative at time of 
discharge. Urine culture pending at time of discharge (final 
result is contaminated by skin flora). 

#Glaucoma:
-Converted home travatan -> latanoprost.

#HTN: Previously on lisinoprol, but ran out several months 
prior. SBP between 130-140.  

TRANSITIONAL ISSUES:
-Recommend restarting lisinopril as outpatient
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. travoprost 0.004 % ophthalmic BID 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*10 Tablet Refills:*0 
2.  travoprost 0.004 % ophthalmic BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Pyelonephritis

Secondary: 
Hypertension
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms ___,

It was a pleasure taking care of you at the ___ 
___. 

You were admitted for a type of urine infection called 
pyelonephritis (infection of kidney). You improved with 
intravenous antibiotics and are being discharged with oral 
antibiotics. 

Please take your entire course of antibiotics and drink plenty 
of fluids. 

We wish you all the best,
Your ___ team
 
Followup Instructions:
___